US07592477B2
To a solution of tert-Butyl-3-(4-tolyl)benzoate (60 g, 0.22 mol) in CCl4 (800 mL) were added NBS (47.8 g, 0.268 mol) and benzoylperoxide (10 g) and the reaction mixture was refluxed overnight. Cooled to RT and filtered. The filtrate was concentrated to give 4-(3-tert-butoxy carbonyl phenyl)benzyl bromide (65 g, 84%).

reactant | tert-Butyl-3-(4-tolyl)benzoate | 0.22 mol, 60 g | C(C)(C)(C)OC(C1=CC(=CC=C1)C1=CC=C(C=C1)C)=O | C18H20O2
reactant | NBS | 0.268 mol, 47.8 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoylperoxide | 10 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 800 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(3-tert-butoxy carbonyl phenyl)benzyl bromide | 65 g, 84% | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)C1=CC=C(CBr)C=C1 | C18H19BrO2
